US04288436
Conc. hydrochloric acid (572 mg) was added to a solution of 7-[2-allyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[1-(2-carboxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.28 g) in methanol (16 ml) at ambient temperature and the mixture was stirred for 30 minutes. The reaction mixture was post-treated according to a conventional manner to give 7-[2-allyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-carboxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer)(410 mg).

reactant | hydrochloric acid | 572 mg | Cl | ClH
reactant | 7-[2-allyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[1-(2-carboxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 2.28 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C21H21N9O8S3
solvent | methanol | 16 ml | CO | CH4O
product | 7-[2-allyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-carboxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 410 mg | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)N | C20H21N9O7S3
